US07319104B2
Ethyl 2-[4-(2-{(5-aminopyridin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate
A solution of ethyl 2-methyl-2-[4-(2-{(5-nitropyridin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]propanoate (149 mg; 1.73 mmol) in 10 ml of MeOH was treated with 10% Pd/C (60 mg) and hydrogenated under balloon pressure for 2 hr. The catalyst was filtered off and washed with chloroform/methanol. The filtrate was concentrated and the residue purified by radial chromatography using a methanol-dichloromethane gradient (1–10%) to afford the title compound as a dark-colored oil (125 mg; 89% yield).

reactant | ethyl 2-methyl-2-[4-(2-{(5-nitropyridin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]propanoate | 1.73 mmol, 149 mg | CC(C(=O)OCC)(C)OC1=CC=C(C=C1)CCN(CC1=CC=C(C=C1)C(F)(F)F)C1=NC=C(C=C1)[N+](=O)[O-] | C27H28F3N3O5
solvent | MeOH | 10 ml | CO | CH4O
catalyst | Pd/C | 60 mg | [Pd] | Pd
product | Ethyl 2-[4-(2-{(5-aminopyridin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate | 125 mg, 89% yield | NC=1C=CC(=NC1)N(CCC1=CC=C(OC(C(=O)OCC)(C)C)C=C1)CC1=CC=C(C=C1)C(F)(F)F | C27H30F3N3O3
